* NGSPICE file created from Gilbert_cell_hierarchal_mixing_stage.ext - technology: gf180mcuD

.subckt LO_diff_pairs_interdigitized a_n2222_n400# a_n2878_n1500# a_n2578_n448# a_n2822_n400#
+ a_n3106_n400# a_n2522_n400# a_n3316_n1664#
X0 a_n2522_n400# a_n2578_n448# a_n2822_n400# a_n3316_n1664# nfet_03v3 ad=2.44p pd=5.22u as=2.44p ps=5.22u w=4u l=0.28u M=5
X1 a_n3106_n400# a_n2578_n448# a_n2222_n400# a_n3316_n1664# nfet_03v3 ad=2.44p pd=5.22u as=2.44p ps=5.22u w=4u l=0.28u M=5
X2 a_n2822_n400# a_n2878_n1500# a_n3106_n400# a_n3316_n1664# nfet_03v3 ad=2.44p pd=5.22u as=2.44p ps=5.22u w=4u l=0.28u M=5
X3 a_n2222_n400# a_n2878_n1500# a_n2522_n400# a_n3316_n1664# nfet_03v3 ad=2.44p pd=5.22u as=2.44p ps=5.22u w=4u l=0.28u M=5
C0 a_n2522_n400# a_n2822_n400# 2.58132f
C1 a_n2522_n400# a_n3106_n400# 3.55206f
C2 a_n2822_n400# a_n3106_n400# 2.84107f
C3 a_n2522_n400# a_n2578_n448# 2.48841f
C4 a_n2522_n400# a_n2222_n400# 2.83963f
C5 a_n2822_n400# a_n2222_n400# 3.52221f
C6 a_n2222_n400# a_n3106_n400# 3.30692f
C7 a_n2822_n400# a_n2878_n1500# 2.48841f
C8 a_n2222_n400# a_n3316_n1664# 1.19605f
C9 a_n2522_n400# a_n3316_n1664# 1.79261f
C10 a_n2822_n400# a_n3316_n1664# 1.82217f
C11 a_n3106_n400# a_n3316_n1664# 2.24444f
C12 a_n2878_n1500# a_n3316_n1664# 19.4555f
C13 a_n2578_n448# a_n3316_n1664# 19.4537f
.ends

.subckt RF_diff_pair$1 a_3384_n849# a_3440_n321# a_3156_n321# a_n628_n849# a_n572_n321#
+ a_n1750_n1013# a_n856_n321# a_2262_n1013#
X0 a_n1750_n1013# a_n1750_n1013# a_n1750_n1013# a_n1750_n1013# nfet_03v3 ad=2.28p pd=6.28u as=18.24p ps=50.24u w=2u l=0.28u M=4
X1 a_n856_n321# a_n628_n849# a_n572_n321# a_n1750_n1013# nfet_03v3 ad=1.22p pd=3.22u as=1.22p ps=3.22u w=2u l=0.28u M=5
X2 a_3440_n321# a_3384_n849# a_3156_n321# a_n1750_n1013# nfet_03v3 ad=1.22p pd=3.22u as=2.28p ps=6.28u w=2u l=0.28u M=5
C0 a_n572_n321# a_n856_n321# 3.11893f
C1 a_3440_n321# a_3156_n321# 3.11893f
C2 a_3156_n321# a_n1750_n1013# 2.06981f
C3 a_3384_n849# a_n1750_n1013# 4.261509f
C4 a_n572_n321# a_n1750_n1013# 2.06981f
C5 a_n628_n849# a_n1750_n1013# 4.261509f
.ends

.subckt Gilbert_cell_hierarchal_mixing_stage VSS I_bias_pos I_bias_neg V_out_p V_out_n
+ V_LO V_LO_b V_RF V_RF_b
XLO_diff_pairs_interdigitized_0 RF_diff_pair$1_0/a_3156_n321# V_LO V_LO_b RF_diff_pair$1_0/a_n856_n321#
+ V_out_p V_out_n VSS LO_diff_pairs_interdigitized
XRF_diff_pair$1_0 V_RF_b I_bias_neg RF_diff_pair$1_0/a_3156_n321# V_RF I_bias_pos
+ VSS RF_diff_pair$1_0/a_n856_n321# VSS RF_diff_pair$1
C0 RF_diff_pair$1_0/a_n856_n321# I_bias_pos 1.071187f
C1 I_bias_pos VSS 3.381997f
C2 V_RF_b VSS 5.793664f
C3 I_bias_neg VSS 1.756341f
C4 RF_diff_pair$1_0/a_n856_n321# VSS 4.204947f
C5 RF_diff_pair$1_0/a_3156_n321# VSS 5.527071f
C6 V_out_n VSS 2.043306f
C7 V_out_p VSS 2.628024f
C8 V_LO_b VSS 20.87427f
C9 V_LO VSS 20.876942f
C10 V_RF VSS 5.786502f
.ends

