* NGSPICE file created from Gilbert_cell_hierarchal_mixing_stage.ext - technology: gf180mcuD

.subckt LO_diff_pairs_interdigitized a_n2222_n400# a_n2878_n1500# a_n2578_n448# a_n2822_n400#
+ a_n3106_n400# a_n2522_n400# a_n3316_n1664#
X0 a_n2522_n400# a_n2578_n448# a_n2822_n400# a_n3316_n1664# nfet_03v3 ad=2.44p pd=5.22u as=2.44p ps=5.22u w=4u l=0.28u M=5
X1 a_n3106_n400# a_n2578_n448# a_n2222_n400# a_n3316_n1664# nfet_03v3 ad=2.44p pd=5.22u as=2.44p ps=5.22u w=4u l=0.28u M=5
X2 a_n2822_n400# a_n2878_n1500# a_n3106_n400# a_n3316_n1664# nfet_03v3 ad=2.44p pd=5.22u as=2.44p ps=5.22u w=4u l=0.28u M=5
X3 a_n2222_n400# a_n2878_n1500# a_n2522_n400# a_n3316_n1664# nfet_03v3 ad=2.44p pd=5.22u as=2.44p ps=5.22u w=4u l=0.28u M=5
C0 a_n2822_n400# a_n3106_n400# 2.84107f
C1 a_n2578_n448# a_n2522_n400# 2.48841f
C2 a_n2222_n400# a_n2822_n400# 3.52221f
C3 a_n3106_n400# a_n2522_n400# 3.55206f
C4 a_n2222_n400# a_n2522_n400# 2.83963f
C5 a_n2822_n400# a_n2522_n400# 2.58132f
C6 a_n2222_n400# a_n3106_n400# 3.30692f
C7 a_n2822_n400# a_n2878_n1500# 2.48841f
C8 a_n2222_n400# a_n3316_n1664# 1.19605f
C9 a_n2522_n400# a_n3316_n1664# 1.79261f
C10 a_n2822_n400# a_n3316_n1664# 1.82217f
C11 a_n3106_n400# a_n3316_n1664# 2.24444f
C12 a_n2878_n1500# a_n3316_n1664# 19.4555f
C13 a_n2578_n448# a_n3316_n1664# 19.4537f
.ends

.subckt RF_diff_pair$1 a_n1066_n1013# a_2016_n849# a_2072_n321# a_n628_n849# a_n572_n321#
+ a_1578_n1013# a_n856_n321# a_1788_n321#
X0 a_1788_n321# a_2016_n849# a_2072_n321# a_n1066_n1013# nfet_03v3 ad=1.22p pd=3.22u as=1.22p ps=3.22u w=2u l=0.28u M=5
X1 a_n856_n321# a_n628_n849# a_n572_n321# a_n1066_n1013# nfet_03v3 ad=1.22p pd=3.22u as=1.22p ps=3.22u w=2u l=0.28u M=5
C0 a_n572_n321# a_n856_n321# 3.11893f
C1 a_1788_n321# a_2072_n321# 3.11893f
C2 a_1788_n321# a_n1066_n1013# 2.19924f
C3 a_2016_n849# a_n1066_n1013# 4.28f
C4 a_n572_n321# a_n1066_n1013# 2.19924f
C5 a_n628_n849# a_n1066_n1013# 4.28f
.ends

.subckt Gilbert_cell_hierarchal_mixing_stage V_out_n V_out_p V_LO V_LO_b V_RF V_RF_b
+ I_bias_pos I_bias_neg VSS
XLO_diff_pairs_interdigitized_0 RF_diff_pair$1_0/a_1788_n321# V_LO V_LO_b RF_diff_pair$1_0/a_n572_n321#
+ V_out_p V_out_n VSS LO_diff_pairs_interdigitized
XRF_diff_pair$1_0 VSS V_RF_b I_bias_neg V_RF RF_diff_pair$1_0/a_n572_n321# VSS I_bias_pos
+ RF_diff_pair$1_0/a_1788_n321# RF_diff_pair$1
C0 V_LO RF_diff_pair$1_0/a_n572_n321# 1.38571f
C1 V_out_p V_out_n 1.062219f
C2 V_out_p VSS 2.814978f
C3 V_RF_b VSS 5.15073f
C4 RF_diff_pair$1_0/a_n572_n321# VSS 6.60346f
C5 I_bias_pos VSS 1.414461f
C6 RF_diff_pair$1_0/a_1788_n321# VSS 7.069094f
C7 V_out_n VSS 2.143957f
C8 V_LO_b VSS 21.207445f
C9 V_LO VSS 21.112011f
C10 V_RF VSS 5.148217f
C11 I_bias_neg VSS 1.306899f
.ends

